US08198279B2
Tert-butyl 2-fluoro-4-(3-(methylamino)pyrido[2,3-b]pyrazin-8-yloxy)phenylcarbamate
Method D6 was used with methylamine and Tert-butyl 4-(3-chloropyrido[2,3-b]pyrazin-8-yloxy)-2-fluorophenylcarbamate to give the title compound as a white solid. Yield: 80 mg (90%).

reactant | methylamine | CN | CH5N
reactant | Tert-butyl 4-(3-chloropyrido[2,3-b]pyrazin-8-yloxy)-2-fluorophenylcarbamate | ClC1=CN=C2C(=N1)N=CC=C2OC2=CC(=C(C=C2)NC(OC(C)(C)C)=O)F | C18H16ClFN4O3
product | Tert-butyl 2-fluoro-4-(3-(methylamino)pyrido[2,3-b]pyrazin-8-yloxy)phenylcarbamate | FC1=C(C=CC(=C1)OC1=CC=NC2=NC(=CN=C21)NC)NC(OC(C)(C)C)=O | C19H20FN5O3
